US09062092B2
Compound 43f. 2-{(E)-2-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carboxylic acid
A solution of 2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carboxylic acid methyl ester (157 mg, 0.35 mmol) in tetrahydrofuran (6 mL) was stirred at 5° C. under nitrogen. A solution of lithium hydroxide monohydrate (30 mg, 0.71 mmol) in water (1.5 mL) was added and the reaction mixture was stirred at room temperature for 18 h. The majority of the organic solvent was evaporated. The solution was acidified to pH 2 with 2 M hydrochloric acid and the mixture was extracted with dichloromethane. The organic extracts were combined and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated to afford the title compound (149 mg, 100%) as a pale yellow foam and as a 1:1 mixture of diastereoisomers. LCMS (m/z) 429.1 [M+H], Tr=1.87 min.

reactant | 2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carboxylic acid methyl ester | 0.35 mmol, 157 mg | COC(=O)C1(OCCOC1)\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)OC(C)(C)C | C24H30N2O6
reactant | lithium hydroxide monohydrate | 0.71 mmol, 30 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
product | 2-{(E)-2-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-[1,4]dioxane-2-carboxylic acid | 149 mg, 100% | C(C)(C)(C)OC(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(OCCOC1)C(=O)O | C23H28N2O6
